US07572801B2
To 2-amino-3-cyanopyridine [24517-64-4] (200 mg, 1.7 mmol) in CH2Cl2 (3 ml) and pyridine (3 ml) was added a solution of 6-phenylhexanoic acid chloride (1.5 eq) in CH2Cl2 (1 ml) and the reaction mixture was stirred overnight at ambient temperature. Water was added, the phases were separated and the pH of the inorganic layer was adjusted (pH 7). The inorganic phase was extracted with EtOAc (3 times), the combined organic layers were washed with brine, dried over Na2SO4, filtrated and concentrated in vacuo. Trituration from diethyl ether yielded 6-phenyl-hexanoic acid (3-cyano-pyridin-2-yl)-amide 360 mg (73%) as a white solid, MS (m/e): 294.3 [M+H+].

reactant | 2-amino-3-cyanopyridine | 1.7 mmol, 200 mg | NC1=NC=CC=C1C#N | C6H5N3
reactant | 6-phenylhexanoic acid chloride | 1.5 eq | C1(=CC=CC=C1)CCCCCC(=O)Cl | C12H15ClO
reactant | Water | O | H2O
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 6-phenyl-hexanoic acid (3-cyano-pyridin-2-yl)-amide | 360 mg, 73% | C(#N)C=1C(=NC=CC1)NC(CCCCCC1=CC=CC=C1)=O | C18H19N3O
